US07115645B2
Acetic acid-[4-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]but-1-yl]ester
50 mg of 4-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]butan-1-ol was dissolved in 1 ml of dichloromethane, mixed with 0.34 ml of pyridine and 20 μl of acetyl chloride and stirred for 15 hours. It was mixed with saturated sodium bicarbonate solution, diluted with water, extracted twice with dichloromethane, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified using thick-layer chromatography.

reactant | 4-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]butan-1-ol | 50 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCO)C2=CC=CC=C2 | C23H22N2O2
reactant | pyridine | 0.34 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 20 μl | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Acetic acid-[4-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]but-1-yl]ester | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCOC(C)=O)C2=CC=CC=C2 | C25H24N2O3
